US08937087B2
To a mixture of tert-butyl [(5,6-dichloro-1H-benzimidazol-2-yl)methyl]methylcarbamate (400 mg) and DMF (4 mL) were added ethyl bromoacetate (201 μL) and K2CO3 (335 mg), followed by heating and stirring at 70° C. for 2 hours. The reaction mixture was diluted with EtOAc, washed with water and brine in this order, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: Hex/EtOAc=50/50-0/100) to obtain ethyl (2-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-5,6-dichloro-1H-benzimidazol-1-yl)acetate (393 mg).

reactant | tert-butyl [(5,6-dichloro-1H-benzimidazol-2-yl)methyl]methylcarbamate | 400 mg | ClC1=CC2=C(NC(=N2)CN(C(OC(C)(C)C)=O)C)C=C1Cl | C14H17Cl2N3O2
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | ethyl bromoacetate | 201 μL | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 335 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl (2-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-5,6-dichloro-1H-benzimidazol-1-yl)acetate | 393 mg | C(C)(C)(C)OC(=O)N(C)CC1=NC2=C(N1CC(=O)OCC)C=C(C(=C2)Cl)Cl | C18H23Cl2N3O4
